US04264595
Production of benzhydryl 2-acetoxyimino-2-(2-imino-4-thiazolin-4yl)acetate
In 20 ml of N,N-dimethylacetamide there were dissolved 26.5 g of benzhydryl 2-acetoxyimino-4-bromo-3-oxobutyrate and, under ice-cooling and stirring, 4.81 g of thiourea were added. The mixture was stirred at room temperature for 3 hours and 15 minutes, after which it was washed well with 80 ml of ether. The ether was discarded after being removed by decantation. The above procedure was carried out once again and the mixture was poured into 100 ml of water, whereupon crystals separated out. After loosening, the crystals were recovered by filtration and washed with ether, a small amount of ethyl acetate and ether in the order mentioned. By the above procedure there were obtained 10.738 g of crystals of the captioned compound.

reactant | benzhydryl 2-acetoxyimino-4-bromo-3-oxobutyrate | 26.5 g | C(C)(=O)ON=C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(CBr)=O | C19H16BrNO5
reactant | thiourea | 4.81 g | NC(=S)N | CH4N2S
solvent | N,N-dimethylacetamide | 20 ml | CN(C(C)=O)C | C4H9NO
product | benzhydryl 2-acetoxyimino-2-(2-imino-4-thiazolin-4yl)acetate | 10.738 g | C(C)(=O)ON=C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C=1NC(SC1)=N | C20H17N3O4S
